* K:\mai-university7\Draft3.asc
* Generated by LTspice 24.1.10 for Windows.
R2 N001 N005 20
V2 N005 N006 117
R3 N001 N002 14
R4 N001 N004 37
R5 N002 N006 5
R6 N004 N006 12
R1 N003 N002 22
V1 N003 N004 136
.tran 1
.backanno
.end
